US06670367B1
Methyl 2-Hydroxy-3-(2-(3,4-dimethoxyphenyl)ethoxy)-3,3-diphenylpropionate
7 g (27.5 mmol) of methyl 3,3-diphenyl-2,3-epoxypropionate and 5.5 g (30.2 mmol) of 2-(3,4-dimethoxyphenyl)ethanol were dissolved in 20 ml of dichloromethane and, at room temperature, 5 drops of boron trifluoride etherate were added. The solution was stirred for 2 hours. The solvent was then distilled off, and the residue (10.7 g, 89%) was immediately reacted further.

reactant | methyl 3,3-diphenyl-2,3-epoxypropionate | 27.5 mmol, 7 g | C1(=CC=CC=C1)C1(C(C(=O)OC)O1)C1=CC=CC=C1 | C16H14O3
reactant | 2-(3,4-dimethoxyphenyl)ethanol | 30.2 mmol, 5.5 g | COC=1C=C(C=CC1OC)CCO | C10H14O3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | boron trifluoride etherate | 5 drops | B(F)(F)F.CCOCC
product | Methyl 2-Hydroxy-3-(2-(3,4-dimethoxyphenyl)ethoxy)-3,3-diphenylpropionate | OC(C(=O)OC)C(C1=CC=CC=C1)(C1=CC=CC=C1)OCCC1=CC(=C(C=C1)OC)OC | C26H28O6
